US04689330
A mixture of 2 parts of N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]methyl]acetamide, 15 parts of a hydrobromic acid solution 48% in water and 10 parts of water was stirred for 4 hours at reflux temperature. The reaction mixture was evaporated. The residue was crystallized from a mixture of ethanol and acetonitrile. The product was filtered off and dried, yielding 2 parts of 1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinemethanamine dihydrobromide; mp. 235.3° C. (intermediate 90).

reactant | N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]methyl]acetamide | O1C(COC2=C1C=CC=C2)CN2CCC(CC2)CNC(C)=O | C17H24N2O3
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | 1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinemethanamine dihydrobromide | Br.Br.O1C(COC2=C1C=CC=C2)CN2CCC(CC2)CN | InChI=1S/C15H22N2O2.2BrH/c16-9-12-5-7-17(8-6-12)10-13-11-18-14-3-1-2-4-15(14)19-13;;/h1-4,12-13H,5-11,16H2;2*1H
